US06676932B2
4,5-Dichloro-3-hydroxypyridazine (25.0 g; 0.151 mol) was dissolved in piperidine (120 mol), under reflux condition for 24 hours. After cooling, the deposited crystal was filtered, to give 4,5-dipiperidino-3-hydroxypyridazine in white crystal (30.3 g as a yield of 75%).

reactant | 4,5-Dichloro-3-hydroxypyridazine | 0.151 mol, 25.0 g | ClC1=C(N=NC=C1Cl)O | C4H2Cl2N2O
reactant | piperidine | 120 mol | N1CCCCC1 | C5H11N
product | 4,5-dipiperidino-3-hydroxypyridazine | yield of 75% | N1(CCCCC1)C1=C(N=NC=C1N1CCCCC1)O | C14H22N4O
